* C:\Users\My PC\OneDrive\Desktop\Pll.asc
V1 VDD 0 1.8
V2 Clk1 0 Pulse_Signal
M35 N040 Down N050 N045 TSMC180nmP
M41 N050 Down N063 N058 TSMC180nmN
M36 N041 N050 N051 N046 TSMC180nmP
M42 N051 N050 N064 N059 TSMC180nmN
M37 N042 N051 N052 N047 TSMC180nmP
M43 N052 N051 N065 N060 TSMC180nmN
M38 N043 N052 N053 N048 TSMC180nmP
M44 N053 N052 N066 N061 TSMC180nmN
M39 N044 N053 Down N049 TSMC180nmP
M45 Down N053 N067 N062 TSMC180nmN
M30 VDD N031 N040 N033 TSMC180nmP
M31 VDD N031 N041 N034 TSMC180nmP
M32 VDD N031 N042 N035 TSMC180nmP
M33 VDD N031 N043 N036 TSMC180nmP
M34 VDD N031 N044 N037 TSMC180nmP
M47 N064 Vcont 0 N069 TSMC180nmN
M48 N065 Vcont 0 N070 TSMC180nmN
M49 N066 Vcont 0 N071 TSMC180nmN
M50 N067 Vcont 0 N072 TSMC180nmN
M29 VDD N031 N031 N032 TSMC180nmP
M40 N031 Vcont 0 N057 TSMC180nmN
M46 N063 Vcont 0 N068 TSMC180nmN
M1 VDD VDD P001 N001 TSMC180nmP
M6 P001 Clk_input1 N009 N008 TSMC180nmP l=180n w=240n
M9 N009 VDD 0 N013 TSMC180nmN
M10 P002 Clk1 0 N014 TSMC180nmN
M7 N005 N009 P002 N010 TSMC180nmN
M2 VDD Clk1 N005 N002 TSMC180nmP
M11 P003 N005 0 N015 TSMC180nmN
M8 N007 Clk1 P003 N011 TSMC180nmN l=180n w=600n
M3 VDD N005 N007 N003 TSMC180nmP
M4 VDD Reset N007 N004 TSMC180nmP
M5 VDD N007 Up N006 TSMC180nmP
M12 Up N007 0 N012 TSMC180nmN
M13 VDD VDD P004 N016 TSMC180nmP
M18 P004 Clk_input2 N024 N023 TSMC180nmP
M21 N024 VDD 0 N028 TSMC180nmN
M22 P005 Clk2 0 N029 TSMC180nmN
M19 N020 N024 P005 N025 TSMC180nmN
M14 VDD Clk2 N020 N017 TSMC180nmP
M23 P006 N020 0 N030 TSMC180nmN
M20 N022 Clk2 P006 N026 TSMC180nmN
M15 VDD N020 N022 N018 TSMC180nmP
M16 VDD Reset N022 N019 TSMC180nmP
M17 VDD N022 Down N021 TSMC180nmP
M24 Down N022 0 N027 TSMC180nmN
M25 VDD Up Reset N038 TSMC180nmP
M26 VDD Down Reset N039 TSMC180nmP
M27 Reset Up N055 N054 TSMC180nmN
M28 N055 Down 0 N056 TSMC180nmN
C3 N050 0 5p
C4 N051 0 5p
C5 N052 0 5p
C6 N053 0 5p
C7 Down 0 5p
C1 N055 0 2p
C2 Vcont 0 0.4p
R1 Vcont N055 5.5k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\My PC\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 1 0
* Voltage Controlled Ring Oscillator(Current Starved)
* Phase Frequency Detector(PFD)
* Charge Pump
* Low pass filter(LPF)
* .include tsmc180nmcmos.lib
.backanno
.end
